US07576063B2
3-Benzyloxy-5-bromo-4-[hydroxyl(4-methoxyphenyl)methyl]-1-isopropyl-1H-pyrazole
3-Benzyloxy-5-bromo-4-formyl-1-isopropyl-1H-pyrazole (0.7 g) was dissolved in tetrahydrofuran (5 mL), and a solution of 4-methoxyphenyl magnesium bromide in tetrahydrofuran (0.5 mL/L, 4.3 mL) was added to the stirred solution. The mixture was stirred at room temperature for 1 hour. A small amount of a saturated ammonium chloride aqueous solution was added to the reaction mixture, and the mixture was purified by column chromatography on aminopropylated silica gel (eluent:tetrahydrofuran) to give the title compound (0.6 g).

reactant | 3-Benzyloxy-5-bromo-4-formyl-1-isopropyl-1H-pyrazole | 0.7 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)Br)C(C)C | C14H15BrN2O2
reactant | 4-methoxyphenyl magnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.3 mL | O1CCCC1 | C4H8O
product | 3-Benzyloxy-5-bromo-4-[hydroxyl(4-methoxyphenyl)methyl]-1-isopropyl-1H-pyrazole | 0.6 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(C1=CC=C(C=C1)OC)O)Br)C(C)C | C21H23BrN2O3
